US06911468B2
(2) Sodium (2R)-2-{4-[5-methyl-1-(4-undecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate
Ethanol (5 ml) and a solution of 1N sodium hydroxide in ethanol (0.724 ml) were added to (2R)-2-{4-[5-methyl-1-(4-undecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid (480 mg, 0.804 mmol) and the mixture was concentrated. To the residue was added hexane to give the object compound as a solid. 375 mg (yield: 83.9%)

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | (2R)-2-{4-[5-methyl-1-(4-undecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid | 0.804 mmol, 480 mg | CC1=CC=C(N1CCC1=CC=C(C=C1)OCCCCCCCCCCC)C1=CC=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C=C1 | C39H49NO4
solvent | ethanol | 0.724 ml | C(C)O | C2H6O
solvent | Ethanol | 5 ml | C(C)O | C2H6O
product | Sodium (2R)-2-{4-[5-methyl-1-(4-undecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate | yield: 83.9% | CC1=CC=C(N1CCC1=CC=C(C=C1)OCCCCCCCCCCC)C1=CC=C(O[C@@H](C(=O)[O-])CC2=CC=CC=C2)C=C1.[Na+] | InChI=1S/C39H49NO4.Na/c1-3-4-5-6-7-8-9-10-14-29-43-35-22-18-32(19-23-35)27-28-40-31(2)17-26-37(40)34-20-24-36(25-21-34)44-38(39(41)42)30-33-15-12-11-13-16-33;/h11-13,15-26,38H,3-10,14,27-30H2,1-2H3,(H,41,42);/q;+1/p-1/t38-;/m1./s1
